US07235572B2
Tetrabutylammonium fluoride hydrate (1.4 g, 4.3 mmol) was added to an ice-cooled solution of 1-(tert-butyl-dimethyl-silanyl)-5-(tert-butyl-dimethyl-silanyloxy)-3-ethyl-1H-indole (840 mg, 2.2 mmol) in THF (8 ml). The reaction mixture was stirred for 45 min at ambient temperature, diluted with ethyl acetate and washed with 1 N HCl and water. The organic phase was concentrated under reduced pressure and the crude product purified by column chromatography (silica gel, ethyl acetate/heptane 1:2) to give 258 mg (1.6 mmol, 74%) 3-ethyl-1H-indol-5-ol.

reactant | Tetrabutylammonium fluoride hydrate | 4.3 mmol, 1.4 g | O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 1-(tert-butyl-dimethyl-silanyl)-5-(tert-butyl-dimethyl-silanyloxy)-3-ethyl-1H-indole | 2.2 mmol, 840 mg | C(C)(C)(C)[Si](N1C=C(C2=CC(=CC=C12)O[Si](C)(C)C(C)(C)C)CC)(C)C | C22H39NOSi2
solvent | THF | 8 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-ethyl-1H-indol-5-ol | 1.6 mmol, 258 mg, 74% | C(C)C1=CNC2=CC=C(C=C12)O | C10H11NO
